US08431695B2
Step 3: Preparation of (2-fluorobenzyl)hydrazine dihydrochloride
Aqueous hydrochloric acid (3 M, 60.64 mL, 181.92 mmol)I was added to a solution of tert-butyl 1-(2-fluorobenzyl)-2-isopropylidenehydrazinecarboxylate (17 g, 60.64 mmol) in THF (100 mL) and the mixture was heated at reflux for 3 h and concentrated. The residue was taken up in toluene and concentrated, then ether was added to the residue and the suspension was stirred for 30 min and filtered. The filter cake (12.2 g, 94%) was washed with ether and dried on the high vacuum pump. LC-MS [M-2HCl]=141.0, RT=0.25 min.

reactant | hydrochloric acid | 181.92 mmol, 3 M, 60.64 mL | Cl | ClH
reactant | tert-butyl 1-(2-fluorobenzyl)-2-isopropylidenehydrazinecarboxylate | 60.64 mmol, 17 g | FC1=C(CN(N=C(C)C)C(=O)OC(C)(C)C)C=CC=C1 | C15H21FN2O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (2-fluorobenzyl)hydrazine dihydrochloride | Cl.Cl.FC1=C(CNN)C=CC=C1 | InChI=1S/C7H9FN2.2ClH/c8-7-4-2-1-3-6(7)5-10-9;;/h1-4,10H,5,9H2;2*1H
